US07087597B1
ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)amino]-5-pyrimidinecarboxylate
To a solution of ethyl 4-chloro-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate (607 mg, 2.0 mmol) in isopropanol (5 mL) were added sodium carbonate (424 mg, 4 mmol) and 4-fluorobenzylamine (313 mg, 4 mmol) and the mixture was heated under reflux for 18 h. The reaction mixture was allowed to cool to room temperature and water was added. The precipitated crystals were collected by filtration, washed several times with cold water and cold ether and dried to give the title compound (637 mg, 81%).

reactant | ethyl 4-chloro-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate | 2.0 mmol, 607 mg | ClC1=NC(=NC=C1C(=O)OCC)N1CCC2=CC=CC=C12 | C15H14ClN3O2
reactant | sodium carbonate | 4 mmol, 424 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorobenzylamine | 4 mmol, 313 mg | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | water | O | H2O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)amino]-5-pyrimidinecarboxylate | 637 mg, 81% | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)F)C(=O)OCC | C22H21FN4O2
